US08198269B2
(7) Synthesis of (4aR,6R,8aS)-6-benzyloxymethyl-8a-(2-fluorophenyl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-ylamine
Benzoyl isothiocyanate (893 μl) was added dropwise to a solution of [(2R,4R,5S)-5-amino-2-benzyloxymethyl-5-(2-fluorophenyl)tetrahydropyran-4-yl]methanol (2.08 g) in dichloromethane (30 ml). The reaction solution was stirred at room temperature for three hours, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography. Several drops of concentrated hydrochloric acid were added to a solution of the resulting intermediate in methanol (40 ml), and the mixture was heated under reflux for five hours. The reaction solution was returned to room temperature, and then the solvent was evaporated under reduced pressure. The residue was dissolved in methanol (40 ml) and DBU (2 ml) was added, followed by heating under reflux for five hours. The solvent was evaporated under reduced pressure and the residue was purified by NH-silica gel column chromatography to obtain the title compound (1.61 g).

reactant | Benzoyl isothiocyanate | 893 μl | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | [(2R,4R,5S)-5-amino-2-benzyloxymethyl-5-(2-fluorophenyl)tetrahydropyran-4-yl]methanol | 2.08 g | N[C@@]1([C@@H](C[C@@H](OC1)COCC1=CC=CC=C1)CO)C1=C(C=CC=C1)F | C20H24FNO3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (4aR,6R,8aS)-6-benzyloxymethyl-8a-(2-fluorophenyl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-ylamine | 1.61 g | C(C1=CC=CC=C1)OC[C@H]1C[C@H]2CSC(=N[C@]2(CO1)C1=C(C=CC=C1)F)N | C21H23FN2O2S
